US05175291
1,3-Dipropyl-8-(1,4-benzodioxan-6-vl)xanthine
2.18 g (0.013 mol) of 1,4-benzodioxan-6-aldehyde, 80 ml of ethanol and 2.4 ml of glacial acetic acid are mixed together and 2.8 g (0.012 mol) of 5,6-diamino-1,3-dipropyluracil are added thereto. The clear solution is refluxed for 21/4 hours and then cooled to 60° C. At this temperature, 2.1 ml (0.013 mol) of diethylazodicarboxylate are added dropwise and the viscous suspension produced is mixed with 80 ml of ethanol and refluxed for 2 hours. After a further 20 hours at ambient temperature the mixture is cooled to 5° C., the solid matter is filtered under suction and washed with ethanol and ether. 4.1 g of the title compound are obtained in the form of a grey solid (=92% of theory), melting point 280°-282° C.

reactant | 1,4-benzodioxan-6-aldehyde | 0.013 mol, 2.18 g | O1CCOC2=C1C=CC(=C2)C=O | C9H8O3
reactant | 5,6-diamino-1,3-dipropyluracil | 0.012 mol, 2.8 g | NC=1C(N(C(N(C1N)CCC)=O)CCC)=O | C10H18N4O2
reactant | diethylazodicarboxylate | 0.013 mol, 2.1 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | ethanol | 80 ml | C(C)O | C2H6O
solvent | acetic acid | 2.4 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 1,3-Dipropyl-8-(1,4-benzodioxan-6-vl)xanthine | 4.1 g | C(CC)N1C(=O)N(C=2N=C(NC2C1=O)C1=CC2=C(OCCO2)C=C1)CCC | C19H22N4O4
